### PR TITLE
Port Section5.lean to lean4

### PR DESCRIPTION
**Pull request by gdahia**
This PR ports Section5.lean to `lean4`, and it was mostly written by GPT 5.5 `xhigh` and Mimo V2.5 Free.

I have left the Mathport comments because I am not sure that the syntax I have used here is the best alternative.

### CODE REVIEW

File: ExponentialRamsey/Section5.lean [hunk 1]
```diff
@@ -3,158 +3,150 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
 # Section 5
 -/
 
-
 open Real
 
-theorem hMul_log_two_le_log_one_add {ε : ℝ} (hε : 0 ≤ ε) (hε' : ε ≤ 1) : ε * log 2 ≤ log (1 + ε) :=
-  by
+open Real Filter in
+theorem hMul_log_two_le_log_one_add {ε : ℝ} (hε : 0 ≤ ε) (hε' : ε ≤ 1) : ε * log 2 ≤ log (1 + ε) := by
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
theorem mul_log_two_le_log_one_add {ε : ℝ} (hε : 0 ≤ ε) (hε' : ε ≤ 1) : ε * log 2 ≤ log (1 + ε) := by
```
(in general, all uses of `hMul` should be `mul` in this project)

File: ExponentialRamsey/Section5.lean [hunk 2]
```diff
@@ -3,158 +3,150 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
   rw [le_log_iff_exp_le]
   swap
   · linarith
   have : 0 ≤ 1 - ε := by rwa [sub_nonneg]
   have := convexOn_exp.2 (Set.mem_univ 0) (Set.mem_univ (log 2)) this hε (by simp)
-  simp only [smul_eq_mul, MulZeroClass.mul_zero, zero_add, Real.exp_zero, mul_one,
-    exp_log two_pos] at this
+  simp only [smul_eq_mul, mul_zero, zero_add, Real.exp_zero, mul_one, exp_log two_pos] at this
   refine' this.trans_eq _
   ring_nf
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]: I think this lemma should also be provable in terms of `general_convex_thing`

File: ExponentialRamsey/Section5.lean [hunk 3]
```diff
@@ -172,81 +164,74 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
+  simpa only [Nat.cast_sum] using five_five_aux (χ := χ) (X := X) (Y := Y)
 
-theorem tendsto_nat_ceil_atTop {α : Type*} [LinearOrderedSemiring α] [FloorSemiring α] :
+theorem tendsto_nat_ceil_atTop {α : Type*} [Semiring α] [LinearOrder α] [IsStrictOrderedRing α] [FloorSemiring α] :
     Tendsto (fun x : α => ⌈x⌉₊) atTop atTop :=
   Nat.ceil_mono.tendsto_atTop_atTop fun n => ⟨n, (Nat.ceil_natCast _).ge⟩
 
 theorem log_le_log_of_le {x y : ℝ} (hx : 0 < x) (hxy : x ≤ y) : log x ≤ log y :=
-  (log_le_log hx (hx.trans_le hxy)).2 hxy
+  log_le_log hx hxy
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]: we can delete this lemma and use `log_le_log` where this one gets used

File: ExponentialRamsey/Section5.lean [hunk 4]
```diff
@@ -1026,36 +991,39 @@ theorem five_one_case_b (p₀l : ℝ) (hp₀l : 0 < p₀l) :
...
+  rw [redOrDensitySteps, Finset.mem_filter, Finset.mem_range] at hi'
+  have hβ := blueXRatio_prop hi
   have hβ' := card_red_neighbors_inter hi
-  refine' (five_one_case_b_aux C.X C.Y hx (Y_nonempty hi'.1) h).trans' _
+  change (1 : ℝ) / (2 * k) * C.Y.card ≤ (((red_neighbors χ) x ∩ C.Y).card : ℝ) at h₅₈
+  change blueXRatio μ k l ini i * (C.X.card : ℝ) =
+    (((blue_neighbors χ) x ∩ C.X).card : ℝ) at hβ
+  change ((((red_neighbors χ) x ∩ C.X).card : ℝ)) =
+    (1 - blueXRatio μ k l ini i) * C.X.card - 1 at hβ'
+  refine' (five_one_case_b_aux (χ := χ) (X := C.X) (Y := C.Y) (x := x) hx (y_nonempty hi'.1) hbad).trans' _
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]: This is a bit strange, are they all really needed? Or, can we modify the current line 1057 to include this information?

File: ExponentialRamsey/Section5.lean [hunk 5]
```diff
@@ -1068,45 +1036,52 @@ theorem five_one_case_b (p₀l : ℝ) (hp₀l : 0 < p₀l) :
...
     refine' mul_pos _ (hk₀ k hlk)
     exact two_pos
   have :
     -((2 : ℝ) / k ^ 4) * (C.X.card * ((red_neighbors χ) x ∩ C.Y).card) ≤
-      weight χ C.X C.Y x * C.Y.card :=
-    by
-    refine' (mul_le_mul_of_nonneg_right (h₅₄ k hlk μ n χ ini i hi) (Nat.cast_nonneg _)).trans' _
+      weight χ C.X C.Y x * C.Y.card := by
+    have h₅₄' := h₅₄ k hlk μ n χ ini i hi
+    change -(C.X.card : ℝ) / (k : ℝ) ^ 5 ≤ weight χ C.X C.Y x at h₅₄'
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
    have h₅₄' : -(C.X.card : ℝ) / (k : ℝ) ^ 5 ≤ weight χ C.X C.Y x := h₅₄ k hlk μ n χ ini i hi
```
as before, I'd guess something like this works?

File: ExponentialRamsey/Section5.lean [hunk 6]
```diff
@@ -1121,55 +1096,59 @@ theorem five_one_case_b_later (μ₁ : ℝ) (p₀l : ℝ) (hμ₁ : μ₁ < 1) (
...
-    Nat.cast_bit0, Nat.cast_one, div_le_iff (rpow_pos_of_pos hk₀ _), mul_assoc, ← rpow_add hk₀]
-  have : 1 - μ ≤ 1 - blue_X_ratio μ k l ini i := sub_le_sub_left (blue_X_ratio_le_mu hi) _
-  refine' (mul_le_mul_of_nonneg_right this (rpow_nonneg_of_nonneg (Nat.cast_nonneg _) _)).trans' _
-  rw [← div_le_iff' (sub_pos_of_lt (hμ₁.trans_le' hμu))]
-  exact
+  · exact
+      mul_nonneg (sub_nonneg_of_le blueXRatio_le_one)
+        (rpow_nonneg (Nat.cast_nonneg _) _)
+  rw [← rpow_sub_one hk₀.ne', mul_comm, mul_assoc, ← rpow_add hk₀, ← rpow_natCast]
+  norm_num
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]: A non-terminal `norm_num` has the same issues as a non-terminal simp. You could try replacing with `norm_num1`, and `simp?` to see what happens. (Approximately, `norm_num` = `norm_num1 + simp`)

**Review by b-mehta — COMMENTED** [review]
Trying to hold myself back from making too many style comments, but this looks nice!

File: ExponentialRamsey/Section5.lean (hunk 1 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Done. I renamed this lemma to `mul_log_two_le_log_one_add`, updated its use, and also cleaned up the remaining `hMul`/`hmul` names in the files that currently compile. I left the old unported files alone since they currently fail before this change on old-style imports.

File: ExponentialRamsey/Section5.lean (hunk 2 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Done. The proof now uses `general_convex_thing` with `a := log 2` and `x := ε * log 2`; the rest is just simplifying with `exp_log`, `field_simp`, and `ring`.

File: ExponentialRamsey/Section5.lean (hunk 3 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Done. The helper is gone, and the call site now uses `log_le_log` directly.

File: ExponentialRamsey/Section5.lean (hunk 4 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Done. I changed this back to the Lean 3 proof style: `specialize h₅₈ ...`, plain `have hβ := ...` / `have hβ' := ...`, and then the existing `change` on the goal. The extra typed local hypotheses are no longer needed.

File: ExponentialRamsey/Section5.lean (hunk 6 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Done. I replaced the relevant non-terminal `norm_num` with `norm_num1` and adjusted the following rewrite for the resulting normal form.

File: ExponentialRamsey/Section5.lean (hunk 4 above)
Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: This style is generally nicer - it's not Lean 3 specific, it's just Lean style. Update your memories / skill to reflect this.

File: ExponentialRamsey/Section5.lean [hunk 7]
```diff
@@ -565,123 +553,106 @@ theorem five_four :
...
-    exact hm
-  exact hl₃
+  have hk₀ : (0 : ℝ) < k := Nat.cast_pos.2 (Nat.zero_lt_of_lt hl₂)
+  have hk₁ : (1 : ℝ) < k := Nat.one_lt_cast.2 hl₂
+  have hk6pos : 0 < (k : ℝ) ^ 6 := pow_pos hk₀ _
+  have hk6subpos : 0 < (k : ℝ) ^ 6 - 1 := sub_pos.2 (one_lt_pow₀ hk₁ (by norm_num))
+  have hfirst : (m : ℝ) / (C.X.card - m) ≤ 1 / ((k : ℝ) ^ 6 - 1) := by
+    rwa [div_le_iff₀' b, ← div_eq_mul_one_div, le_div_iff₀' hk6subpos]
+  have hsecond : (1 : ℝ) / C.X.card ≤ 1 / (k : ℝ) ^ 6 :=
+    one_div_le_one_div_of_le hk6pos c
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: Will try to make it more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 8]
```diff
@@ -3,158 +3,157 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
+  have hεlog : 0 ≤ ε * log 2 := mul_nonneg hε hlog.le
+  have hεlog_le : ε * log 2 ≤ log 2 :=
+    calc
+      ε * log 2 ≤ 1 * log 2 := mul_le_mul_of_nonneg_right hε' hlog.le
+      _ = log 2 := one_mul _
+  have h := general_convex_thing (a := log 2) (x := ε * log 2) hεlog hεlog_le hlog.ne'
+  rw [exp_log two_pos] at h
+  refine' h.trans_eq _
+  field_simp [hlog.ne']
+  ring
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 9]
```diff
@@ -3,158 +3,157 @@ Copyright (c) 2023 Bhavik Mehta. All rights reserved.
...
+    rw [mul_div_assoc' _ _ ε, le_div_iff₀' hε, ← mul_assoc, mul_assoc (Real.log _)]
+    refine' mul_le_mul_of_nonneg_right (mul_log_two_le_log_one_add hε.le hε₁) _
     norm_num1
+  have h45 : (4/5 : ℝ) = 0.8 := by norm_num
+  rw [h45] at this
   refine' (rpow_le_rpow_of_exponent_le hk₁ this).trans' _
-  rwa [norm_of_nonneg, one_mul, norm_of_nonneg] at hk₂
-  · exact rpow_nonneg_of_nonneg (Nat.cast_nonneg _) _
+  rwa [h45, norm_of_nonneg, one_mul, norm_of_nonneg] at hk₂
+  · exact rpow_nonneg (Nat.cast_nonneg _) _
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 10]
```diff
@@ -172,110 +171,98 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
+  rw [← div_le_iff₀' hY] at this
   refine' this.trans_eq' _
-  rw [col_density_comm]
-  rw [col_density_eq_sum, div_pow, div_mul_eq_mul_div, mul_pow, mul_div_mul_right,
+  rw [colDensity_comm, colDensity_eq_sum, div_pow, div_mul_eq_mul_div, mul_pow, mul_div_mul_right,
     div_mul_eq_mul_div, sq (Y.card : ℝ), mul_div_mul_right _ _ hY.ne']
-  positivity
+  · simp
+  · have hX0 : (X.card : ℝ) ≠ 0 := Nat.cast_ne_zero.2 (Finset.card_ne_zero.2 hX)
+    simpa using pow_ne_zero 2 hX0
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 11]
```diff
@@ -419,140 +402,145 @@ theorem five_six :
...
+        intro x hx
+        rw [Finset.mem_union]
+        rcases le_total (μ * C.X.card) (((blue_neighbors χ) x ∩ C.X).card : ℝ) with hx' | hx'
+        · left
+          exact Finset.mem_filter.2 ⟨hx, hx'⟩
+        · right
+          exact Finset.mem_filter.2 ⟨hx, hx'⟩
+      _ ≤ B.card + G.card := Finset.card_union_le _ _
+      _ ≤ m + G.card := Nat.add_le_add_right hi'.2.2.le _
+      _ = G.card + m := Nat.add_comm _ _
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic by avoiding the calc.

File: ExponentialRamsey/Section5.lean [hunk 12]
```diff
@@ -925,90 +874,110 @@ theorem blue_neighbors_eq_red_compl {x : V} :
...
+  calc
+    (red_density χ) X Y * (↑(NB x ∩ X).card * ↑(NR x ∩ Y).card) +
+          α * (↑(NR x ∩ X).card * ↑(NR x ∩ Y).card) +
+        weight χ X Y x * ↑Y.card
+        = ↑(NB x ∩ X).card * ((red_density χ) X Y * ↑(NR x ∩ Y).card) +
+            (↑Y.card * weight χ X Y x +
+              α * (↑(NR x ∩ X).card * ↑(NR x ∩ Y).card)) := by ring
+    _ ≤ ∑ y ∈ NB x ∩ X, ↑((NR x ∩ NR y ∩ Y).card) := hle
+    _ = ∑ y ∈ NB x ∩ X, ↑((NR y ∩ (NR x ∩ Y)).card) :=
+      Finset.sum_congr rfl fun y hy => by rw [Finset.inter_left_comm, Finset.inter_assoc]
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this whole proof more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 13]
```diff
@@ -1068,45 +1037,51 @@ theorem five_one_case_b (p₀l : ℝ) (hp₀l : 0 < p₀l) :
...
-  refine' (add_le_add_left this _).trans' _
+    rw [div_mul_eq_mul_div, div_mul_eq_mul_div, mul_left_comm, pow_succ]
+    field_simp
+  have hthis :
+      -(α * (((red_neighbors χ) x ∩ C.Y).card : ℝ)) +
+          (-((2 : ℝ) / k ^ 4) * (C.X.card * ((red_neighbors χ) x ∩ C.Y).card)) ≤
+        -(α * (((red_neighbors χ) x ∩ C.Y).card : ℝ)) +
+          weight χ C.X C.Y x * C.Y.card := by
+    simpa [add_comm, add_left_comm, add_assoc] using
+      add_le_add_left this (-(α * (((red_neighbors χ) x ∩ C.Y).card : ℝ)))
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

edit: I failed 🫠 

edit 2: proper prompting of GPT 5.5 succeeded 🎉

File: ExponentialRamsey/Section5.lean [hunk 14]
```diff
@@ -1185,47 +1166,53 @@ theorem five_one_case_b_condition (μ₁ p₀l : ℝ) (hμ₁ : μ₁ < 1) (hp
...
+      exact
+        red_neighbors_y_nonempty' hp₀ (hl₁.trans_le hlk) hi _
+          (BookConfig.getCentralVertex_mem_x _ _ _)
+  have hpos' :
+      0 <
+        αFunction k (height k ini.p (algorithm μ k l ini i).p) * (1 - (k : ℝ) ^ (-1 / 4 : ℝ)) *
+          (((algorithm μ k l ini i).X.card : ℝ) *
+            (((red_neighbors χ) (getX hi) ∩ (algorithm μ k l ini i).Y).card : ℝ)) := by
+    simpa [C] using hpos
+  exact (not_le_of_gt hpos') (by simpa using hl)
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

File: ExponentialRamsey/Section5.lean [hunk 15]
```diff
@@ -1384,59 +1367,56 @@ theorem five_three_right (μ₁ p₀l : ℝ) (hμ₁ : μ₁ < 1) (hp₀l : 0 <
...
     exact hk₀.ne'
-  replace h := (mul_le_mul_of_nonneg_right this _).trans h
-  swap
-  · refine' div_nonneg (sub_nonneg_of_le _) blue_X_ratio_nonneg
-    exact blue_X_ratio_le_one
-  rw [mul_comm, mul_one_div, sub_div, div_self hβ.ne', div_le_iff, one_mul, sub_le_iff_le_add] at h
+  have hnonneg : 0 ≤ (1 - blueXRatio μ k l ini i) / blueXRatio μ k l ini i := by
+    have hβle : blueXRatio μ k l ini i ≤ 1 := by
+      exact blueXRatio_le_one (χ := χ) (k := k) (l := l) (ini := ini) (i := i) (μ := μ)
+    exact div_nonneg (sub_nonneg_of_le hβle) hβ.le
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: I will try to make this more idiomatic.

**Review by gdahia — COMMENTED** [review]
Pointing out some places where I think the code is worse than the previous version, and will try to improve before merging. I will ping you once this is done.

File: ExponentialRamsey/Section5.lean [hunk 16]
```diff
@@ -925,90 +861,92 @@ theorem blue_neighbors_eq_red_compl {x : V} :
...
-  · positivity
-  rw [Nat.cast_pos, card_pos]
-  exact hxY.mono (inter_subset_right _ _)
+  conv_rhs => rw [colDensity_eq_sum]
+  simp only [pairWeight, ← Finset.mul_sum] at h
+  have : 0 < (Y.card : ℝ) := by
+    exact_mod_cast Finset.card_pos.2 (hxY.mono Finset.inter_subset_right)
+  rw [inv_mul_eq_div, div_le_div_iff_of_pos_right this,
+    Finset.sum_sub_distrib, Finset.sum_const, nsmul_eq_mul,
+    le_sub_iff_add_le', mul_left_comm, ← add_mul, ← sub_eq_add_neg] at h
```
Comment (gdahia) [inline ExponentialRamsey/Section5.lean]: Not happy with this one either, but couldn't make it better.

Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: [Solved](https://github.com/b-mehta/ExponentialRamsey/pull/12/commits/4df05c95e48ff11b9aa55b1791e27f15d232b88e)

**Review by gdahia — COMMENTED** [review]
Now I am done with this PR (until you have comments, @b-mehta 🙇)

File: ExponentialRamsey/Section5.lean [hunk 17]
```diff
@@ -25,136 +30,124 @@ theorem hMul_log_two_le_log_one_add {ε : ℝ} (hε : 0 ≤ ε) (hε' : ε ≤ 1
     exp_log two_pos] at this
   refine' this.trans_eq _
   ring_nf
-
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean:28]: let's keep this new line

File: ExponentialRamsey/Section5.lean [hunk 18]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
 /- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (x y) -/
 theorem five_five_aux_part_one {X Y : Finset V} :
-    ∑ (x) (y) in X, (red_density χ) X Y * ((red_neighbors χ) x ∩ Y).card =
-      (red_density χ) X Y ^ 2 * X.card ^ 2 * Y.card :=
-  by
-  simp_rw [sum_const, nsmul_eq_mul, ← mul_sum]
-  suffices (red_density χ) X Y * X.card * Y.card = ∑ x : V in X, ((red_neighbors χ) x ∩ Y).card
-    by
-    rw [← this, sq, sq]
+    ∑ x ∈ X, ∑ _y ∈ X, (red_density χ) X Y * ((red_neighbors χ) x ∩ Y).card =
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
    ∑ x ∈ X, ∑ _y ∈ X, red_density χ X Y * (red_neighbors χ x ∩ Y).card =
```
and similarly below

File: ExponentialRamsey/Section5.lean [hunk 19]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
 
 /- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (x y) -/
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
```

File: ExponentialRamsey/Section5.lean [hunk 20]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
+    ∑ x ∈ X, ∑ _y ∈ X, (red_density χ) X Y * ((red_neighbors χ) x ∩ Y).card =
+      (red_density χ) X Y ^ 2 * X.card ^ 2 * Y.card := by
+  simp_rw [Finset.sum_const, nsmul_eq_mul, ← Finset.mul_sum]
+  suffices h : (red_density χ) X Y * X.card * Y.card = ∑ x ∈ X, ((red_neighbors χ) x ∩ Y).card by
+    rw [← Nat.cast_sum, ← h, sq, sq]
     linarith only
-  rw [mul_right_comm, mul_assoc, col_density_comm, col_density_mul_mul]
+  rw [mul_right_comm, mul_assoc, colDensity_comm, colDensity_mul_mul]
 
 /- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (x y) -/
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
```

File: ExponentialRamsey/Section5.lean [hunk 21]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
 theorem five_five_aux_part_two {X Y : Finset V} :
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean:178]:
```suggestion
-- TODO: clean up this proof
theorem five_five_aux_part_two {X Y : Finset V} :
```

File: ExponentialRamsey/Section5.lean [hunk 22]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
-  rw [col_density_comm]
-  rw [col_density_eq_sum, div_pow, div_mul_eq_mul_div, mul_pow, mul_div_mul_right,
-    div_mul_eq_mul_div, sq (Y.card : ℝ), mul_div_mul_right _ _ hY.ne']
-  positivity
+  rw [colDensity_comm, colDensity_eq_sum, div_pow, div_mul_eq_mul_div, mul_pow, mul_div_mul_right,
+    div_mul_eq_mul_div, sq (Y.card : ℝ), mul_div_mul_right _ _ (by positivity)]
+  · simp
+  · positivity
 
 /- ./././Mathport/Syntax/Translate/Expr.lean:107:6: warning: expanding binder group (x y) -/
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
```

File: ExponentialRamsey/Section5.lean [hunk 23]
```diff
@@ -172,110 +165,97 @@ variable {V : Type*} [DecidableEq V] [Fintype V] {χ : TopEdgeLabelling V (Fin 2
...
-  by
-  simp_rw [pair_weight, ← mul_sum, sum_sub_distrib]
+    0 ≤ ∑ x ∈ X, ∑ y ∈ X, pairWeight χ X Y x y := by
+  simp_rw [pairWeight, ← Finset.mul_sum, Finset.sum_sub_distrib]
   refine' mul_nonneg (by positivity) (sub_nonneg_of_le _)
+  norm_cast
   exact five_five_aux
 
-theorem tendsto_nat_ceil_atTop {α : Type*} [LinearOrderedSemiring α] [FloorSemiring α] :
+theorem tendsto_nat_ceil_atTop {α : Type*} [Semiring α] [LinearOrder α] [IsStrictOrderedRing α] [FloorSemiring α] :
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
theorem tendsto_natCeil_atTop {α : Type*} [Semiring α] [LinearOrder α] [IsStrictOrderedRing α] [FloorSemiring α] :
```

File: ExponentialRamsey/Section5.lean [hunk 24]
```diff
@@ -419,140 +395,133 @@ theorem five_six :
...
-  rw [ramsey_number_pair_swap]
-  refine' (Nat.mul_le_mul_left _ ramsey_number_le_right_pow_left').trans _
+  rw [ramseyNumber_pair_swap]
+  refine' (Nat.mul_le_mul_left _ ramseyNumber_le_right_pow_left').trans _
   rw [← @Nat.cast_le ℝ, ← pow_add, Nat.cast_pow]
   refine' hl.trans' _
-  rw [← log_le_iff_le_exp (pow_pos (hl₀ _ hlk) _), log_pow, Nat.cast_add, Nat.cast_bit0,
-    Nat.cast_bit1, Nat.cast_one]
+  rw [← log_le_iff_le_exp (pow_pos (hl₀ _ hlk) _), log_pow, Nat.cast_add]
+  norm_num
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
  norm_num1
```

Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: since this is non-terminal

File: ExponentialRamsey/Section5.lean [hunk 25]
```diff
@@ -419,140 +395,133 @@ theorem five_six :
...
-    simp (config := { contextual := true }) only [Finset.subset_iff, mem_filter, true_and_iff]
+  rw [double_sum_pairWeight_eq]
+  rw [BookConfig.numBigBlues] at hi'
+  have : C.X.card - m ≤ (BookConfig.centralVertices μ C).card := by
+    rw [tsub_le_iff_right, BookConfig.centralVertices]
+    refine'
+      (Nat.add_le_add_left hi'.2.2.le _).trans'
+        ((Finset.card_union_le _ _).trans' (Finset.card_le_card _))
+    rw [← Finset.filter_or]
+    simp (config := { contextual := true }) only [Finset.subset_iff, Finset.mem_filter, true_and]
```
Comment (b-mehta) [inline ExponentialRamsey/Section5.lean]:
```suggestion
    simp +contextual only [Finset.subset_iff, Finset.mem_filter, true_and]
```

File: ExponentialRamsey/Section5.lean (hunk 18 above)
Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: This didn't work for me :thinking: 
image

```
▼ expected type (192:16-192:17)
V : Type u_1
inst✝¹ : DecidableEq V
inst✝ : Fintype V
χ : TopEdgeLabelling V (Fin 2)
X Y : Finset V
x : V
⊢ V

▼ 192:36-192:38: error:
unexpected identifier; expected ':=', 'where' or '|'

▼ 192:23-192:36: error:
Type mismatch
  red_density χ
has type
  Finset V → Finset V → ℝ
but is expected to have type
  Sort u_1

▼ 192:14-192:36: error:
failed to synthesize instance of type class
  AddCommMonoid (Sort ?u.7930)

Hint: Type class instance resolution failures can be inspected with the `set_option trace.Meta.synthInstance true` command.

Error code: lean.synthInstanceFailed
View explanation

▼ 192:5-192:36: error:
failed to synthesize instance of type class
  AddCommMonoid (Sort ?u.7930)

Hint: Type class instance resolution failures can be inspected with the `set_option trace.Meta.synthInstance true` command.

Error code: lean.synthInstanceFailed
View explanation
```

Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: it looks like you wrote `red_density x X Y` instead of `red_density χ X Y`, I think

Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: ~I am a complete moron, sorry~ 🤦 

I am still a moron, but I didn't make that mistake. It's just my ubuntu font that is terrible, check the error pasted in the original message.

Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: ah! can you try `∑ x ∈ X, ∑ _y ∈ X, (red_density χ X Y * (red_neighbors χ x ∩ Y).card)` in that case?

Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Also didn't work:
image

Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: that's baffling - what's your LLM saying here? in almost all cases, `(f x) y` and `f x y` should be doing the same in lean...

Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: GLM 5.2 pointed out that [these are `notation` instead of functions](https://github.com/b-mehta/ExponentialRamsey/blob/8250b9e38aa564d0802536138dda96870af53f7f/ExponentialRamsey/Basic.lean#L51-L53), and that's the reason. I asked it to use normal functions, but ran out of tokens for the 5h period 🙃

Comment (b-mehta) [reply ExponentialRamsey/Section5.lean]: Ah! I forgot these were notation. Using functions may be better, but for now I fixed the notation

Comment (gdahia) [reply ExponentialRamsey/Section5.lean]: Thank you!

**Review by b-mehta — APPROVED** [review]
Sorry for the delay, and thanks!!
